US05708008
5-(trimethylacetyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 2.00 gm (5.74 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole dihydrochloride ethanolate and 1.78 gm (14.4 mMol) trimethylacetyl chloride, 0.623 gm (34.6%) of the title compound were recovered as an off-white powder.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole dihydrochloride ethanolate | 5.74 mMol, 2.00 gm | C(C)[O-].Cl.Cl.NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C
reactant | trimethylacetyl chloride | 14.4 mMol, 1.78 gm | CC(C(=O)Cl)(C)C | C5H9ClO
product | 5-(trimethylacetyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.623 gm, 34.6% | CC(C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C)(C)C | C19H27N3O
